data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C)[OH:10].C1=CC=C(C=C1)[S:20](=[O:21])Cl.C1=CC=NC=C1>>CC(C)[OH+:10][S:20](C1=CC=CC=C1)([O-:21])Cl.C1=CC=NC=C1 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C#N)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=CC(=C2)C#N)[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][OH2+:21].C[P:10](C)C>>[H:20][P+:10](C)(C)C.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].CO[C:11](=[CH:10]CC1=CC=CC=C1)[O-:12]>>[H:20][CH:10](CC1=CC=CC=C1)[C:11](=[O:12])OC.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC1=CC2=C(C=CC=C2)C=C1)P(C3=CC=CC=C3)(C4=CC=CC=C4)(C5=CC=CC=C5)N(C(=O)OCC)NC(=O)OCC.CCC(C(=O)C1=CC=CC=C1)C(=O)[O-:10]>>[H:20][O:10]C(=O)C(CC)C(=O)C1=CC=CC=C1.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[O:21]CC4=CC5=C(C=CC=C5)C=C4 10=20;20,21=21
[H:20][O:21]C.CC[NH2+]C(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)[NH2+]CC.C[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C.C[O:10]C1CC2C3CC4=C(C2(CCN3CCC5=CC=CC=C5)C=C1O)C(=C(C=C4)OC)O>>[H:20][O+:10](C)C1CC2C3CC4=C(C2(CCN3CCC5=CC=CC=C5)C=C1O)C(=C(C=C4)OC)O.CS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21](C(CC1=CC=CC=C1)N2CCCCC2)(C(=O)O)C(=O)OC.[OH2:10].CC(=O)O>>[H:20][OH2+:10].COC(=O)[C-:21](C(CC1=CC=CC=C1)N2CCCCC2)C(=O)O.CC(=O)O 10=20;20,21=21
[H:20][NH:21][C:22](=[O+:23][Si-](C)(C)(C)OC(=O)C)C.C[OH:10]>>[H:20][OH+:10]C.C[C:22](=[NH:21])[O:23][Si-](C)(C)(C)OC(=O)C 10=20;22,23=23;20,21=21,22
C(CO)[CH2:20][O:21]S(=O)Cl.[Cl-:10]>>C(CO)[CH2:20][Cl:10].[O-:21]S(=O)Cl 10=20;20,21=21
[B:20]1(OC(C(=O)O1)C(C(=O)O)OC(=O)C2=C(C=CC=C2OC(C)C)OC(C)C)C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F.CC1=CCOC(C1)C=CC(C(CC=CC=[O:10])O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.CC(CC1CC=CC(O1)C=C)CC(=C)C[Si](C)(C)C>>[B-:20]1(OC(C(=O)O1)C(C(=O)O)OC(=O)C2=C(C=CC=C2OC(C)C)OC(C)C)(C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)[O+:10]=CC=CCC(C(C=CC4CC(=CCO4)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C.CC(CC1CC=CC(O1)C=C)CC(=C)C[Si](C)(C)C 10=20,
[H:20][C:21](C)(CC)C#N.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC[C-:21](C)C#N 10=20;20,21=21
CCOC(=O)N[N:11](C(=O)OCC)[P:10](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCCC4CC(=C)CC(O4)C=C(C)Br.C1=CC=C(C=C1)N2C(=NN=N2)S>>CCOC(=O)N[N-:11]C(=O)OCC.CC(=CC1CC(=C)CC(O1)CCO[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)Br.C1=CC=C(C=C1)N2C(=NN=N2)S 10,11=11
CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+:21]4([CH3:20])C#N)C(O2)C(=O)CC5)OC(=O)C)C=C1.[Br-:10]>>CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N:21]4C#N)C(O2)C(=O)CC5)OC(=O)C)C=C1.[CH3:20][Br:10] 10=20;20,21=21
CC[N+]1=[C:21](SC(=C1C)CCO)[C:20](C2=CC=C(C=C2)F)(C(C3=CC=CC=C3)C(C(=O)C(C)C)C(=O)OC)[O-:10].CCO.C(CO)[NH+](CCO)CCO.[Br-]>>CC[N+]1=[C-:21]SC(=C1C)CCO.CC(C)C(=O)C(C(C1=CC=CC=C1)[C:20](=[O:10])C2=CC=C(C=C2)F)C(=O)OC.CCO.C(CO)[NH+](CCO)CCO.[Br-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)C#N)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=C(O1)C#N 10=20;20,21=21,22
[H:20][O+:21](CC)S(C)(C)OC(=NC)NC.OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)O.CC[O:21]S(C)(C)OC(=NC)NC 10=20;20,21=21
C[CH2:20][O:21][P+:22](C)(C)C.[Br-:10]>>C[CH2:20][Br:10].C[P:22](=[O:21])(C)C 10=20;20,21=21,22
C[As+](C)(C)[CH-:10][CH2:20][OH:21]>>C[As+](C)(C)[CH:10]=[CH2:20].[OH-:21] 10=20;20,21=21
CC(=O)O[C:20](=[O:21])CCC[O-:10]>>CC(=O)O[C:20]1(CCC[O:10]1)[O-:21] 10=20;20,21=21
[H:20][NH2+:21]C(C)(CCC(=O)C1=CC=CC=C1)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(CCC(=O)C1=CC=CC=C1)([NH2:21])O 10=20;20,21=21
[B-:13](CCCC)(CCCC)([O:12][C:11](=[CH2:10])CC(C(C)C)OCC1=CC=C(C=C1)OC)[O+:21]=[CH:20]CCC2=CC=CC=C2.CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>[B:13](CCCC)(CCCC)[O:21][CH:20](CCC1=CC=CC=C1)[CH2:10][C:11](=[O:12])CC(C(C)C)OCC2=CC=C(C=C2)OC.CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12,13=11,12
CC12CCC3(C1)CCC4C(C3C[CH+:20]2)(CCCC4(C)C(=O)OC)C.C(=O)[O-:10].O>>CC12CCC3(C1)CCC4C(C3C[CH:20]2[O:10]C=O)(CCCC4(C)C(=O)OC)C.O 10=20,
COC1=C(C=C(C(=C1)[CH:20]=[O+:21]CCC[OH:10])Br)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>COC1=C(C=C(C(=C1)[CH:20]2[OH+:10]CCC[O:21]2)Br)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
[H:20][NH+:21](CCO)C(C)(C1=C(C=CC=C1)O)[O-].C(CO)[NH2:10]>>[H:20][NH2+:10]CCO.CC(C1=C(C=CC=C1)O)([NH:21]CCO)[O-] 10=20;20,21=21
CC[CH:20]=[N+:21](C)C.CC[NH2:10]>>CC[CH:20]([NH2+:10]CC)[N:21](C)C 10=20;20,21=21
CC(C)CC(C(=O)NC)NC(=O)[O:21][CH2:20][C-:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1>>CC(C)CC(C(=O)NC)NC(=O)[O-:21].[CH2:20]=[C:10]1C2=C(C=CC=C2)C3=C1C=CC=C3.CN(C)C=O.C1CC[NH2+]CC1 10=20;20,21=21
CC1CC[CH:20]2[O+:21]1C(CC2)C.[OH2:10].C(S(=O)(=O)[O-])Cl>>CC1CC[CH:20](CCC([O:21]1)C)[OH2+:10].C(S(=O)(=O)[O-])Cl 10=20;20,21=21
CCCCCC1CC[CH2:10][C:11](C1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CCCCCC1CC[CH2:10][CH2:20][C:11](=[OH+:12])C1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
CCO[C:20](C)([O-:10])[O:21]C(=O)C>>CCO[C:20](=[O:10])C.CC(=O)[O-:21] 10=20;20,21=21
[Li:11][CH2:10][Si](C)(C)C.[CH2:20]=[O:21]>>[Li+:11].C[Si](C)(C)[CH2:10][CH2:20][O-:21] 10,11=10,20;20,21=21
C[C:21](=[C:20]([O-:10])OC)C>>C[C-:21](C)[C:20](=[O:10])OC 10=20;20,21=21
[B:20]([O+](C)CCC)(F)F.[F-:10]>>[B-:20]([O+](C)CCC)(F)(F)[F:10] 10=20,
